US07582773B2
Step 2: Synthesis of 4-(4-Methoxy-phenyl)-1,3-dimethyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 4-bromo-1,3-dimethyl-2-phenyl-1H-indole (1.182 g, 3.937 mmol) was reacted with aqueous 2M K2CO3 (3.9 ml), 4-methoxyphenylboronic acid (0.838 g, 5.512 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.096 g, 0.118 mmol) in dioxane (39 ml) to give the product (1.253 g, 3.827 mmol, 97%) as a yellow, viscous oil. 1H NMR (DMSO-d6) δ 1.72 (s, 3H), 3.60 (s, 3H), 3.81 (s, 3H), 6.85 (dd, J=0.8, 7.0 Hz, 1H), 6.99 (d, J=8.7 Hz, 2H), 7.20 (t, J=7.3 Hz, 1H), 7.32 (d, J=8.7 Hz, 2H), 7.41-7.47 (m, 4H), 7.53 (t, J=7.6 Hz, 2H); [ESI(+)], m/z 328 (M+H)+.

reactant | 4-bromo-1,3-dimethyl-2-phenyl-1H-indole | 3.937 mmol, 1.182 g | BrC1=C2C(=C(N(C2=CC=C1)C)C1=CC=CC=C1)C | C16H14BrN
reactant | K2CO3 | 2M, 3.9 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 5.512 mmol, 0.838 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.118 mmol, 0.096 g | ClCCl | CH2Cl2
solvent | dioxane | 39 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-Methoxy-phenyl)-1,3-dimethyl-2-phenyl-1H-indole | COC1=CC=C(C=C1)C1=C2C(=C(N(C2=CC=C1)C)C1=CC=CC=C1)C | C23H21NO
